US08470819B2
Step A: Preparation of tert-butyl 3-hydroxy-3-(6-methoxypyridin-3-yl)pyrrolidine-1-carboxylate (i-5a)
5-bromo-2-methoxypyridine (324 μL, 2.50 mmol) was added dropwise to a stirred suspension of n-butyllithium (1.72 mL of a 1.6 M hexanes solution, 2.75 mmol) in ether (10.0 mL) at −78° C. After 10 min, a solution of N-Boc-3-pyrrolidinone (463 mg, 2.50 mmol) in ether (2.00 mL) was added dropwise, and the reaction mixture was allowed to stir at −78° C. After 2 h, the reaction was quenched with satd. aq. NH4Cl and extracted with EtOAc. The combined organics were washed with brine, dried (sodium sulfate) and concentrated in vacuo. Purification of the crude residue by flash chromatography on silica gel (gradient elution; 10%-80% EtOAc/hexanes as eluent) afforded the title compound i-5a. m/z (ES) 295 (MH)+. 1H NMR (500 MHz, CDCl3): δ 8.31 (s, 1H), 7.71 (d, 1H, 7.1 Hz), 6.79 (dd, 1H, J=2.2, 8.6 Hz), 3.97 (s, 3H), 3.40-3.80 (m, 4H), 2.25 (m, 2H), 1.51 (s, 9H).

reactant | 5-bromo-2-methoxypyridine | 2.50 mmol, 324 μL | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-Boc-3-pyrrolidinone | 2.50 mmol, 463 mg | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
solvent | ether | 10.0 mL | CCOCC | C4H10O
solvent | ether | 2.00 mL | CCOCC | C4H10O
product | tert-butyl 3-hydroxy-3-(6-methoxypyridin-3-yl)pyrrolidine-1-carboxylate | OC1(CN(CC1)C(=O)OC(C)(C)C)C=1C=NC(=CC1)OC | C15H22N2O4
